US08076454B2
3-Isopropyl-2-methyl-benzoic acid (0.75 g) was refluxed in ca. 3 mL of thionyl chloride with a drop of DMF fro several hours and thionyl chloride was removed in vacuo to yield 3-isopropyl-2-methylbenzoyl chloride. The acid chloride was dissolved in 5 mL of CH2Cl2 and added slowly and simultaneously but separately with 5 mL of aqueous NaOH (0.265 g, 6.6 mmol) to a solution of 3,5-dimethyl-benzoic acid N-tert-butyl-hydrazide (0.973 g, 4.4 mmol) dissolved in 10 mL of CH2Cl2 prechilled to −5° C. During the addition, the temperature was kept below 5° C. The mixture was allowed to warm slowly to room temperature and was stirred overnight. The organic layer was removed and the aqueous layer was extracted with CH2Cl2. The organic extracts were combined, dried, and solvent was removed in vacuo to give 1.61 g of crude product as a yellow oil. This material was chromatographed on silica gel using 4:1 hexanes:ethyl acetate as eluant, and subsequently triturated from 1:1 hexane:ether, yielding 3,5-dimethyl-benzoic acid N-tert-butyl-N′-(3-isopropyl-2-methyl-benzoyl)-hydrazide, after arduous removal of ether in a vacuum oven at 60° C. (0.35 g, m.p. 182.5° C. 1H NMR (CDCl3, 200 MHz), (ppm): 7.6 (s, 1H), 7.25 (d, 1H), 7.1 (s, 2H), 7.05 (s, 1H), 7.0 (m, 1H), 6.3 (d, 1H), 3.1 (m, 1H), 2.3 (s, 6H), 1.95 (s, 3H), 1.6 (s, 9H), 1.18 (m, 6H).

reactant | 3-Isopropyl-2-methyl-benzoic acid | 0.75 g | C(C)(C)C=1C(=C(C(=O)O)C=CC1)C | C11H14O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | ca. 3 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-isopropyl-2-methylbenzoyl chloride | C(C)(C)C=1C(=C(C(=O)Cl)C=CC1)C | C11H13ClO
